US07378418B2
363B. Preparation of 2-(4-(Isoxazol-5-yl)benzyl)-7-(4-chlorophenyl)-8-(1H-imidazol-1-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A solution of 2-(4-(isoxazol-5-yl)benzyl)-8-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (149 mg, 0.34 mmol) and imidazole (69.5 mg, 1.02 mmol) in dry 1-methyl-2-pyrrolidinone (3 mL) was heated at 100° C. for 18 h. HPLC/MS analysis indicated 90% complete reaction. The reaction mixture was concentrated under vacuum with co-evaporation of toluene (5 mL×2) to obtain a dark yellow solid. The crude product was purified by silica gel column chromatography (ISCO) eluting with CH2Cl2/EtOAc to obtain pure title compound (87 mg, 55%) as a yellow solid. MS [M+H]+ 470; HPLC retention time=2.59 min; 1HNMR (400 MHz, CDCl3) δ 8.29 (d, 1H, J=0.5 Hz), 8.18 (s, 1H), 7.80-7.85 (m, 2H), 7.78 (s, 1H), 7.49 (d, 2H, J=7.0 Hz), 7.43 (d, 2H, J=7.0 Hz), 7.13-7.15 (m, 3H), 6.94 (m, 1H), 6.53 (d, 1H, J=0.5 Hz), 5.27 (s, 2H).

reactant | 2-(4-(isoxazol-5-yl)benzyl)-8-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.34 mmol, 149 mg | O1N=CC=C1C1=CC=C(CN2N=C3N(N=CC(=C3Cl)C3=CC=C(C=C3)Cl)C2=O)C=C1 | C21H13Cl2N5O2
reactant | imidazole | 1.02 mmol, 69.5 mg | N1C=NC=C1 | C3H4N2
solvent | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(4-(Isoxazol-5-yl)benzyl)-7-(4-chlorophenyl)-8-(1H-imidazol-1-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 87 mg, 55% | O1N=CC=C1C1=CC=C(CN2N=C3N(N=CC(=C3N3C=NC=C3)C3=CC=C(C=C3)Cl)C2=O)C=C1 | C24H16ClN7O2
